US08232403B2
A mixture of 3-({N-[3,5-bis(trifluoromethyl)benzyl]-N-(2-methyl-2H-tetrazol-5-yl)amino}methyl)-2-[N′-(cyclopentylmethyl)-N′-ethylamino]quinoline-7-carboxilic acid (30 mg, 0.047 mmol), oxalyl chloride (10 ul), and catalytic amount of DMF in CH2Cl2 (2 mL) is stirred at room temperature for 3 hours and concentrated in vacuo. The residue is dissolved with THF and treated with 2M dimethylamine in THF, and the resulting THF mixture is stirred at room temperature for 3 hours. The mixture is quenched by 1N HCl and extracted with EtOAc. The organic layer is washed with brine, dried over magnesium sulfate, filtered and concentrated. The crude product is purified by silica gel column chromatography to give 3-({N-[3,5-bis(trifluoromethyl)benzyl]-N-(2-methyl-2H-tetrazol-5-yl)amino}methyl)-2-[N′-(cyclopentylmethyl)-N′-ethylamino]quinoline-7-carboxylic acid dimethylamide.

reactant | 3-({N-[3,5-bis(trifluoromethyl)benzyl]-N-(2-methyl-2H-tetrazol-5-yl)amino}methyl)-2-[N′-(cyclopentylmethyl)-N′-ethylamino]quinoline-7-carboxilic acid | 0.047 mmol, 30 mg | FC(C=1C=C(CN(C=2N=NN(N2)C)CC=2C(=NC3=CC(=CC=C3C2)C(=O)O)N(CC)CC2CCCC2)C=C(C1)C(F)(F)F)(F)F | C30H31F6N7O2
reactant | oxalyl chloride | 10 ul | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-({N-[3,5-bis(trifluoromethyl)benzyl]-N-(2-methyl-2H-tetrazol-5-yl)amino}methyl)-2-[N′-(cyclopentylmethyl)-N′-ethylamino]quinoline-7-carboxylic acid dimethylamide | CN(C(=O)C1=CC=C2C=C(C(=NC2=C1)N(CC)CC1CCCC1)CN(C=1N=NN(N1)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C32H36F6N8O
